US05124333
Synthesis of 5-chloro-N-chlorocarbonyl-N-(8-methylthiooctyl)-6-ethyl-4-pyrimidineamine
In the same manner as mentioned above, 5-chloro-N-(6-methylthiohexyl)-6-ethyl-4-pyrimidineamine, 5-chloro-N-chlorocarbonyl-N-(8-methylthiooctyl)-6-methyl-4-pyrimidineamine and N-chlorocarbonyl-N-(8-methylthiooctyl-4-quinazolineamine were synthesized.

reactant | 5-chloro-N-(6-methylthiohexyl)-6-ethyl-4-pyrimidineamine | ClC=1C(=NC=NC1CC)NCCCCCCSC | C13H22ClN3S
reactant | 5-chloro-N-chlorocarbonyl-N-(8-methylthiooctyl)-6-methyl-4-pyrimidineamine | ClC=1C(=NC=NC1C)N(CCCCCCCCSC)C(=O)Cl | C15H23Cl2N3OS
reactant | 8-methylthiooctyl-4-quinazolineamine | CSCCCCCCCCC1=NC2=CC=CC=C2C(=N1)N | C17H25N3S
product | 5-chloro-N-chlorocarbonyl-N-(8-methylthiooctyl)-6-ethyl-4-pyrimidineamine | ClC=1C(=NC=NC1CC)N(CCCCCCCCSC)C(=O)Cl | C16H25Cl2N3OS
